US05981573
(1) Preparation of ethyl 5-{2-(4-nitrophenyl)-3-oxobutyl}-2-furancarboxylate
3.00 g of 4-nitrophenylacetone in 50 ml of dimethylformamide was mixed with 0.70 g of 60% oily sodium hydride under cooling with ice under stirring and stirred at the same temperature for 10 minutes. After addition of 3.40 g of ethyl 5-(chloromethyl)-2-furancarboxylate in 5 ml of dimethylformamide, the reaction solution was stirred at room temperature for 2.5 hours. The reaction solution was acidified with acetic acid, and water and ethyl ether were added for extraction. The organic layer was washed with saturated aqueous sodium chloride and then dried over anhydrous magnesium sulfate. The desiccant was filtered off, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography [hexane/ethyl acetate=5/1→2/1] to give 5.84 g of the title compound as a yellow oily substance.

reactant | 4-nitrophenylacetone | 3.00 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(C)=O | C9H9NO3
reactant | sodium hydride | 0.70 g | [H-].[Na+]
reactant | ethyl 5-(chloromethyl)-2-furancarboxylate | 3.40 g | ClCC1=CC=C(O1)C(=O)OCC | C8H9ClO3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
product | ethyl 5-{2-(4-nitrophenyl)-3-oxobutyl}-2-furancarboxylate | 5.84 g | [N+](=O)([O-])C1=CC=C(C=C1)C(CC1=CC=C(O1)C(=O)OCC)C(C)=O | C17H17NO6
